US05789607
A 2-L three-necked flask equipped with a mechanical stirrer and an Ar-inlet tube was charged with 90.0 g (242 mmol) of ethyl triphenylphosphonium bromide and 480 mL of toluene. To the suspension, 27.2g (242 mmol) of potassium t-butoxide was added. After stirring at room temperature for 2 hr, the orange-red mixture was cooled with an ice-water bath. Then, 96.8 g (173 mmol) of (1α,3β)-3-[[dimethyl(1,1,2-trimethylpropyl)silyl]oxy]-1-[(triethylsilyl)oxy]androsta-5,7-dien-17-one was added with the aid of 30 mL of toluene. The mixture was stirred at room temperature overnight, and the reaction was quenched by the addition of 3.96 mL of acetic acid (69 mmol). After stirring for an additional hour, the suspension was filtered through a Celite pad. The filter cake was washed with 2×130 mL of toluene. The combined filtrate and washes were concentrated, and the residual toluene was removed by co-evaporation with 180 mL of methanol followed by drying under high vacuum. The residue was then dissolved in a mixture of 350 mL of hexane and 350 mL of 95% methanol. The hexane layer was washed with 180 mL of 95% methanol. The combined methanol layers were extracted with 2×150 mL of hexane. The combined hexane solutions were dried over sodium sulfate (Na2SO4), and concentrated. The residual hexane was removed by co-evaporation with 30 mL of methanol. The resulting solid residue was suspended in 175 mL of methanol, and the suspension was stirred for 1 hr to obtain a powdery material. After the suspension was stored in a refrigerator overnight, the precipitate was filtered and washed with 2×175 mL of 95% methanol. Drying under high vacuum gave 91.1 g (92.9% yield) of (1α,3β,17Z)-dimethyl[[1-[(triethylsilyl)oxy]pregna-5,7,17(20)-trien-3-yl]oxy](1,1,2-trimethylpropyl)silane as an off-white solid.

reactant | potassium t-butoxide | 242 mmol, 27.2g | CC(C)([O-])C.[K+]
reactant | (1α,3β)-3-[[dimethyl(1,1,2-trimethylpropyl)silyl]oxy]-1-[(triethylsilyl)oxy]androsta-5,7-dien-17-one | 173 mmol, 96.8 g | C[Si](O[C@@H]1CC2=CC=C3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2([C@H](C1)O[Si](CC)(CC)CC)C)=O)(C(C(C)C)(C)C)C | C33H58O3Si2
reactant | acetic acid | 69 mmol, 3.96 mL | C(C)(=O)O | C2H4O2
catalyst | ethyl triphenylphosphonium bromide | 242 mmol, 90.0 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 480 mL | C1(=CC=CC=C1)C | C7H8
product | (1α,3β,17Z)-dimethyl[[1-[(triethylsilyl)oxy]pregna-5,7,17(20)-trien-3-yl]oxy](1,1,2-trimethylpropyl)silane | 91.1 g, 92.9% yield | C[Si](C(C(C)C)(C)C)(O[C@@H]1CC2=CC=C3[C@@H]4CC/C(=C/C)/[C@]4(CC[C@@H]3[C@]2([C@H](C1)O[Si](CC)(CC)CC)C)C)C | C35H62O2Si2
